US05578722
(3S ,4S)-3-[(1R)-1-t-Butyldimethylsilyloxyethyl]-4-[(1R)-1-carboxyethyl]-2-azetidinone (995 mg, 3.3 mmol), benzylmercaptan (409 mg, 3.5 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (592 mg, 3.5 mmol) are dissolved in methylene chloride (3 ml), and thereto is added dropwise pyridine (550 mg, 7.0 mmol) under ice-cooling. The mixture is stirred at room temperature for 10 hours. The reaction solution is treated in the same manner as in Reference Example 3 to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-(benzylthiocarbonyl)ethyl]-2-azetidinone (868 mg).

reactant | (3S ,4S)-3-[(1R)-1-t-Butyldimethylsilyloxyethyl]-4-[(1R)-1-carboxyethyl]-2-azetidinone | 3.3 mmol, 995 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=O)O)=O | C14H27NO4Si
reactant | benzylmercaptan | 3.5 mmol, 409 mg | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 3.5 mmol, 592 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | pyridine | 7.0 mmol, 550 mg | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-(benzylthiocarbonyl)ethyl]-2-azetidinone | 868 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)CC1=CC=CC=C1)=O | C21H33NO2SSi
